US06569880B2
2-Amino-1-[3-(1,3,5-trimethylpyrazol-4-yl)phenyl]benzimidazole (Compound 2d).
A mixture of 2-(3-(2-amino-1-benzimidazolyl)phenyl)-1,3,2-dioxaborinane (2.0 g, 6.82 mmol), 4-bromo-1,3,5-trimethylpyrazole (1.29 g, 6.82 mmol), tetrakis(triphenylphosphine)-palladium(0) (0.24 g, 0.20 mmol), sodium hydrogen carbonate (2.29 g, 27.3 mmol), water (27 ml) and 1,2-dimethoxyethane (54 ml) was stirred at reflux overnight. Aqueous sodium hydroxide (50 ml) was added and the mixture was extracted twice with ethyl acetate (50 ml). The crude extract was purified by chromatography using silica gel and a mixture of ethanol (4%) and dichloromethane as eluent. The product was isolated as the free base. Yield 0.60 g, 28%. M.p. 198-200° C.

reactant | 2-(3-(2-amino-1-benzimidazolyl)phenyl)-1,3,2-dioxaborinane | 6.82 mmol, 2.0 g | NC1=NC2=C(N1C=1C=C(C=CC1)B1OCCCO1)C=CC=C2 | C16H16BN3O2
reactant | 4-bromo-1,3,5-trimethylpyrazole | 6.82 mmol, 1.29 g | BrC=1C(=NN(C1C)C)C | C6H9BrN2
reactant | sodium hydrogen carbonate | 27.3 mmol, 2.29 g | C(O)([O-])=O.[Na+]
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.20 mmol, 0.24 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | 1,2-dimethoxyethane | 54 ml | COCCOC | C4H10O2
solvent | water | 27 ml | O | H2O
product | 2-Amino-1-[3-(1,3,5-trimethylpyrazol-4-yl)phenyl]benzimidazole | NC1=NC2=C(N1C1=CC(=CC=C1)C=1C(=NN(C1C)C)C)C=CC=C2 | C19H19N5
